US08258140B2
Preparation of N-(2-methoxyethyl)-N-methyl-4-(4-{1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl}phenoxy)butanamide
Obtained in 50% yield by an analogous method to Example 19, starting from 4-[4-[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenoxy]butanoic acid and N-(2-methoxyethyl)methylamine.

reactant | 4-[4-[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenoxy]butanoic acid | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)C2=CC=C(OCCCC(=O)O)C=C2)(F)F | C21H22F3N5O3
reactant | N-(2-methoxyethyl)methylamine | COCCNC | C4H11NO
product | N-(2-methoxyethyl)-N-methyl-4-(4-{1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl}phenoxy)butanamide | 50% yield | COCCN(C(CCCOC1=CC=C(C=C1)C1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F)=O)C | C25H31F3N6O3
